US08247431B2
Step 3: Preparation of 3-amino-6-chloro-pyridine-2-carboxylic acid
3-Amino-6-chloro-2-(2-furanyl)pyridine (1.06 g) was dissolved in acetone (25 mL) and cooled in an ice bath to 0° C. A solution prepared of potassium permanganate (2.57 g) in water (40 mL) was added drop wise to this solution. After complete addition, the reaction mixture was allowed to warm to room temperature and stirred for hours. The mixture was cooled again to 0° C. and a second portion of potassium permanganate (858 mg) in water (15 mL) was added and the cool bath removed. After stirring for 2 hours, the reaction mixture was filtered through a pad of celite, the filter cake was washed carefully with water, methanol and ethyl acetate and concentrated to approx. 20 mL on a rotary evaporator. 2N Sodium hydroxide solution was added to adjust the pH-value to −12 and the aqueous layer was washed 2× with MTB-ether. The aqueous layer was adjusted to pH ˜2 by addition of 6N hydrochloric acid and extracted 3× with MTB-ether. The combined organic layer was washed with brine, dried over MgSO4 and concentrated in vacuum to afford 636 mg of the title compound of the formula

reactant | 3-Amino-6-chloro-2-(2-furanyl)pyridine | 1.06 g | NC=1C(=NC(=CC1)Cl)C=1OC=CC1 | C9H7ClN2O
reactant | potassium permanganate | 2.57 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium permanganate | 858 mg | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetone | 25 mL | CC(=O)C | C3H6O
solvent | water | 40 mL | O | H2O
solvent | water | 15 mL | O | H2O
product | 3-amino-6-chloro-pyridine-2-carboxylic acid | 636 mg | NC=1C(=NC(=CC1)Cl)C(=O)O | C6H5ClN2O2
